US07718652B2
A solution of 2-fluoroaniline (6.8 mL, 70 mmol) in tetrahydrofuran (200 mL) was cooled to −78° C. and treated with n-butyllithium (31 mL of a 2.5 M solution in hexanes, 77 mmol). After 1 h, the reaction mixture was treated with a solution of 2-nitrobenzylbromide (15.1 g, 70 mL) in tetrahydrofuran (50 mL), and warmed to room temperature and stirred for 16 h. The reaction mixture was diluted with ethyl ether (500 mL), and washed with H2O (500 mL), and evaporated. Flash chromatography (SiO2, 5-20% ethyl acetate/hexanes) provided 2-fluoro-N-(2-nitrobenzyl)aniline (13.4 g) as a yellow solid:

reactant | 2-fluoroaniline | 70 mmol, 6.8 mL | FC1=C(N)C=CC=C1 | C6H6FN
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-nitrobenzylbromide | 70 mL, 15.1 g | [N+](=O)([O-])C1=C(CBr)C=CC=C1 | C7H6BrNO2
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | ethyl ether | 500 mL | C(C)OCC | C4H10O
product | 2-fluoro-N-(2-nitrobenzyl)aniline | 13.4 g | FC1=C(NCC2=C(C=CC=C2)[N+](=O)[O-])C=CC=C1 | C13H11FN2O2
